US04766131
Using the procedures described in Example 3 hereinabove, 9.4 g of 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline is reacted with 8.0 g 2-nitrophenylacetic acid to give 11.8 g N-(2-nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline. This amide is reduced with borane in THF to produce 13.2 g of N-(2-nitrophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride. Reduction of the nitro function by catalytic hydrogenation over palladium provides, after recrystallization from ethanol/ether and drying under vacuum, 9.6 g N-(2-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride, m.p. 229°-230°.

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 9.4 g | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
reactant | 2-nitrophenylacetic acid | 8.0 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
product | N-(2-nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 11.8 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C | C20H22N2O5
